US06696218B2
Synthesis of 2-ethyl-2-adamantyl Methacrylate/p-acetoxystyrene (20:80) Copolymer
A flask was charged with 39.7 g (0.16 mol) of 2-ethyl-2-adamantyl methacrylate, 103.8 g (0.64 mol) of p-acetoxystyrene and 265 g of isopropanol, and the mixture was heated to 75° C. under the nitrogen atmosphere. To the obtained solution was dropped a solution prepared by dissolving 11.05 g (0.048 mol) of dimethyl 2,2′-azobis(2-methylpropionate) into 22.11 g of isopropanol. After keeping the solution for about 0.3 hour at a temperature of 75° C. and then with stirring for 12 hours, the solution was diluted with acetone, and then the reaction solution was poured into a large amount of methanol to have a polymer precipitated, followed by filtration. Amount of thus obtained copolymer of 2-ethyl-2-adamantyl methacrylate and p-acetoxystyrene was 250 g (note: that this is a weight of a wet cake containing methanol).

reactant | 2-ethyl-2-adamantyl methacrylate | 0.16 mol, 39.7 g | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC | C16H24O2
reactant | p-acetoxystyrene | 0.64 mol, 103.8 g | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | isopropanol | 265 g | C(C)(C)O | C3H8O
reactant | dimethyl 2,2′-azobis(2-methylpropionate) | 0.048 mol, 11.05 g | N(=NC(C(=O)OC)(C)C)C(C(=O)OC)(C)C | C10H18N2O4
reactant | isopropanol | 22.11 g | C(C)(C)O | C3H8O
solvent | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
product | 2-ethyl-2-adamantyl Methacrylate p-acetoxystyrene | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC.C(C)(=O)OC1=CC=C(C=C)C=C1 | InChI=1S/C16H24O2.C10H10O2/c1-4-16(18-15(17)10(2)3)13-6-11-5-12(8-13)9-14(16)7-11;1-3-9-4-6-10(7-5-9)12-8(2)11/h11-14H,2,4-9H2,1,3H3;3-7H,1H2,2H3
